US07705053B2
Ethyl 4-methoxybenzoate (28.0 mL) and 26.0 mL of methoxymethyl chloride were dissolved in 500 mL of dichloromethane, and the solution was cooled to 0° C. To this solution, 10.0 mL of tin (IV) chloride was added dropwise over 15 minutes, and then the mixture was stirred for 5 hours. The reaction mixture was poured into 1 L of water, and the organic layer was separated, whereafter the aqueous layer was extracted twice with dichloromethane. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The anhydrous sodium sulfate was separated by filtration, and washed with dichloromethane. The filtrate and the washings were combined, and dichloromethane was distilled off under reduced pressure. The resulting residue was recrystallized from a mixture of n-hexane and ethyl acetate. The resulting crystals were separated by filtration, then washed with n-hexane, and dried under reduced pressure to obtain 23.8 g (60%) of ethyl 3-chloromethyl-4-methoxybenzoate.

reactant | Ethyl 4-methoxybenzoate | 28.0 mL | COC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
reactant | methoxymethyl chloride | 26.0 mL | COCCl | C2H5ClO
reactant | tin (IV) chloride | 10.0 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | water | 1 L | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | ethyl 3-chloromethyl-4-methoxybenzoate | 23.8 g, 60% | ClCC=1C=C(C(=O)OCC)C=CC1OC | C11H13ClO3
